US09303027B2
Synthesis of (S)-1-phenyl-N-(1-phenyl-2-(pyrrolidin-1-yl)ethyl)cyclopropanecarboxamide hydrochloride
To a solution of 1-phenylcyclopropanecarboxylic acid (1 eq.), were added at about 20-35° C., DCC (1 eq) in DCM and 1-Hydroxybenzotriazole (1 eq.). The mixture was stirred for 10 min and to this mixture was added (S)-1-((R)-2-amino-2-phenylethyl)pyrrolidin-3-ol (1 eq) and the contents were allowed to stir at about 20-35° C. for 12 h. The reaction mixture was filtered, the filtrate was diluted with DCM and the organic layer was washed with sat.NaHCO3 solution, brine and dried over Na2SO4 and concentrated under reduced pressure to give the crude product. The crude was purified by flash chromatography using silica gel (230-400 mesh) to give the desired product as a pale yellow gum. The resultant product is treated with hydrochloric acid to form the corresponding hydrochloric acid salt by following standard salt forming procedures known in the art.

reactant | 1-phenylcyclopropanecarboxylic acid | 1 eq. | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | DCC | 1 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-Hydroxybenzotriazole | 1 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-1-((R)-2-amino-2-phenylethyl)pyrrolidin-3-ol | 1 eq | N[C@@H](CN1C[C@H](CC1)O)C1=CC=CC=C1 | C12H18N2O
reactant | DCM | C(Cl)Cl | CH2Cl2
product | (S)-1-phenyl-N-(1-phenyl-2-(pyrrolidin-1-yl)ethyl)cyclopropanecarboxamide hydrochloride | Cl.C1(=CC=CC=C1)C1(CC1)C(=O)N[C@H](CN1CCCC1)C1=CC=CC=C1 | InChI=1S/C22H26N2O.ClH/c25-21(22(13-14-22)19-11-5-2-6-12-19)23-20(17-24-15-7-8-16-24)18-9-3-1-4-10-18;/h1-6,9-12,20H,7-8,13-17H2,(H,23,25);1H/t20-;/m1./s1
